US07855202B2
2-(3-Fluoro-4-methylphenyl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
A solution of N-(6′-amino-3″-fluoro-3,2′:3′,4″-terpyridin-5′-yl)-3-fluoro-4-methylbenzamide (0.12 g, 0.288 mmol) in acetic acid (2 mL) was heated in a sealed tube at 118° C. for 16 h. The solvent was evaporated and 4% sodium bicarbonate aqueous solution was added and extracted with ethyl acetate. The organic layer was dried and evaporated. The residue was purified by silica gel flash chromatography (95:5 dichloromethane/methanol) to give the title compound (0.03 g, 26% of yield).

reactant | N-(6′-amino-3″-fluoro-3,2′:3′,4″-terpyridin-5′-yl)-3-fluoro-4-methylbenzamide | 0.288 mmol, 0.12 g | NC1=C(C=C(C(=N1)C=1C=NC=CC1)C1=C(C=NC=C1)F)NC(C1=CC(=C(C=C1)C)F)=O | C23H17F2N5O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Fluoro-4-methylphenyl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.03 g, 26% | FC=1C=C(C=CC1C)C1=NC=2C(=NC(=C(C2)C2=C(C=NC=C2)F)C=2C=NC=CC2)N1 | C23H15F2N5
